US06794405B2
Preparation of N-triphenylmethyl-4-(trans-2-cyano-cyclopropyl)imidazole
To a solution of hydroxylamine hydrochloride (816 mg, 12 mmol) in anhydrous acetonitrile (35 mL), were added triethylamine (1.6 ml, 12 mmol), and 2-[1-(triphenylmethyl)imidazol-4-yl]cyclopropanecarbaldehyde (4.0 g, 11 mmol) The resulting mixture was stirred for about 2 hours followed by the addition of phthalic anhydride (1.6 g, 11 mmol) under nitrogen. Then the reaction mixture was heated under reflux for 8 hours, concentrated under reduced pressure, diluted with 5% aqueous ammonia (30 mL), and extracted with ethyl acetate (3×40 ml). The organic layer was dried with MgSO4, and then evaporated under reduced pressure. The resulting residue was purified on a silica gel column using ethyl acetate/hexane (v/v:1/6) as the eluting solvent to give the title compound as a pale yellow solid (2.4 g, 64% yield).

reactant | hydroxylamine hydrochloride | 12 mmol, 816 mg | Cl.NO
reactant | triethylamine | 12 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | 2-[1-(triphenylmethyl)imidazol-4-yl]cyclopropanecarbaldehyde | 11 mmol, 4.0 g | C1(=CC=CC=C1)C(N1C=NC(=C1)C1C(C1)C=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H22N2O
reactant | phthalic anhydride | 11 mmol, 1.6 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | N-triphenylmethyl-4-(trans-2-cyano-cyclopropyl)imidazole | 2.4 g, 64% yield | C1(=CC=CC=C1)C(N1C=NC(=C1)[C@H]1[C@@H](C1)C#N)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H21N3
